Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
___ left heart catheterization

 
History of Present Illness:
___ PMH presenting as OSH transfer for NSTEMI.  

Patient reports that he started cycling 2 weeks ago, during 
which he would experience left chest tightness relieved with 
rest. He attributes to recently stopping his vaporizer for 
smoking cessation. 2d prior to admission, he was driving home 
and developed a ___ chest tightness and ache that lasted 4hrs. 
He laid down and the tightness resolved. He thought it was due 
to gas. He subsequently developed a sharp pain over his R 
shoulder blade for 1 hr. No N/V, diaphoresis, SOB, numbness, 
tingling.

 In the ED initial vitals were: 97.3 104/67 70 18 95/RA  
 EKG: NSR, leftward axis, no concerning ischemic changes, no 
prior available  
 Labs/studies notable for:  
 Trop 0.27  
 INR 1.2  
 PTT 33.3 INR 1.19  
 CBC 7.5>15.2/42/2<179  
 Chem10: ___, Ca ___  
 CXR: no acute cardiopulmonary process  
 Patient was started on heparin GTT  
 Vitals on transfer: 98.6 108/52 62 17 100/RA  
 On the floor pt is CP free.  

 
Past Medical History:
HTN and Hypothyroidism  
 
Social History:
___
Family History:
 Father died of an MI at age ___  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
 VS: 97.3 123/74 61 17 95RA 89.7 kg  
 GENERAL:Oriented x3. Mood, affect appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with no JVP elevation.  
 CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e. No femoral bruits.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAMINATION:  
VS: 98.3 ___ 57-62 18 99%RA
Weight: 88.9kg 
GENERAL: Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with no JVP elevation.  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
Admission labs:

___ 03:30PM   ___ PTT-36.2 ___
___ 03:30PM   cTropnT-0.27*
___ 09:40PM   ___ PTT-39.2* ___
___ 09:40PM   PLT COUNT-170
___ 09:40PM   WBC-5.5 RBC-4.30 HGB-14.4 HCT-39.4 MCV-92 
MCH-33.5* MCHC-36.5 RDW-11.8 RDWSD-39.3
___ 09:40PM   CALCIUM-9.3 PHOSPHATE-3.3 MAGNESIUM-2.3
___ 09:40PM   CK-MB-14* cTropnT-0.23*
___ 09:40PM   GLUCOSE-196* UREA N-17 CREAT-0.9 SODIUM-134 
POTASSIUM-3.8 CHLORIDE-98 TOTAL CO2-26 ANION ___ LHC
Coronary Anatomy
Dominance: Right
The LMCA had no angiographically apparent CAD. The LAD had no 
angiographically apparent CAD.
The Proximal Cx had no significant disease but was occluded 
after OM1 which itself had origin 40%
stenosis. The RCA had mild luminal irregularities with chronic 
total occlusion distally and right to right
collaterals filling the distal vessel robustly.

Interventional Details
Initial angiography demonstrated 100% occlusion of the OM2 at 
its origin which we thought was the culprit of the patient's 
presentation.

We planned to treat this stenosis with PTCA and stenting.
Heparin was used during the procedure to achieve an ACT > 250. 
Plavix 600mg was given at the end of the procedure.
A ___ XB LAD 3.5 provided poor support during the procedure due 
to the tortuosity (the proximal LCx comes off at a 90 degree 
angle from the LMCA). A ___ guideliner was placed to provide 
extra support. We crossed initially with a choice ___ XS with 
moderate difficulty. We then used a Turnpike to cross the lesion 
and exchanged the wire with a Prowater but the entire system 
prolapsed out when advancing a balloon.
Recrossed with some difficulty using a Pilot 50 wire and then 
using an OTW balloon attempted to exchange for a Prowater 
balloon but the balloon lumen kinked with necessitated placing a 
___ Grafix intermediate wire instead. Then predilated with 2.0 
and 3.0 mm balloons. Deployed a 3.0 x 16 mm Promus stent and 
then distal disease was to be treated but we could not deliver 
another stent despite Guideliner advancement. Postdilated the 
stent to 3.5 mm and then reattempted and with some difficulty 
advanced a 3.5 x 16 mm 16 mm Promus stent. All stents were 
postdilated to 3.5 mm. Final angiography revealed normal flow, 
no dissection and 0% residual stenosis.

Impressions:
1. 2 vessel disease.
2. Successful PCI of culprit Cx lesion with DES.

___ TTE
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. There is 
mild regional left ventricular systolic dysfunction with basal 
to mid inferolateral hypokinesis. The wall motion abnormality is 
very mild (clip 1 and 69) and corroborated by strain analysis. 
Quantitative (biplane) LVEF = 61 %. Transmitral and tissue 
Doppler imaging suggests normal diastolic function, and a normal 
left ventricular filling pressure (PCWP<12mmHg). The aortic root 
is mildly dilated at the sinus level. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. 

 IMPRESSION: 
 1) Mild regional left ventricular systolic dysfunction c/w CAD 
in the LCX territory with overall normal global LV systolic 
function.  

Discharge labs:

___ 04:55AM BLOOD WBC-6.3 RBC-4.13 Hgb-13.8 Hct-37.7 MCV-91 
MCH-33.4* MCHC-36.6 RDW-11.4 RDWSD-38.5 Plt ___
___ 04:55AM BLOOD Glucose-105* UreaN-15 Creat-0.9 Na-136 
K-4.6 Cl-102 HCO3-24 AnGap-15
___ 04:55AM BLOOD Calcium-9.6 Phos-4.5 Mg-2.1
___ 04:35AM BLOOD %HbA1c-4.4 eAG-80
___ 04:35AM BLOOD Triglyc-111 HDL-33 CHOL/HD-4.8 
LDLcalc-___ PMH HTN, hypothyroidism, presenting as OSH transfer for 
NSTEMI.  

# NSTEMI  
Pt endorses exertional CP over last few weeks. Trop elevated to 
0.28 on admission and downtrended. EKG w/ hyperacute T waves in 
V2, V3. He was placed on a heparin drip. He underwent left heart 
catheterization ___ which showed 100% occlusion of OM2, thought 
to be the culprit lesion. 2xDES were deployed to LCx. TTE showed 
mild regional left ventricular systolic dysfunction c/w CAD in 
the LCX territory with overall normal global LV systolic 
function. EF 61%. He was started on aspirin 81mg qd, 
atorvastatin 80mg qd, clopidogrel 75mg qd, metoprolol tartrate 
12.5mg BID. 

# HTN: BPs well controlled. Held lisinopril

# Hypothyroidism  
 - continued synthroid 

Transitional issues:
====================
- New medications: aspirin, atorvastatin, clopidogrel, 
metoprolol XL
- Stopped medication: lisinopril
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Levothyroxine Sodium 25 mcg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
4.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*1 
5.  Levothyroxine Sodium 25 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Non ST elevation myocardial infarction

Secondary:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure caring for you at ___. You were admitted 
because you had chest pain. We found that you suffered from a 
heart attack. You underwent catheterization of your heart, which 
showed blockage of the vessels of your heart. We placed 2 stents 
in the vessels of your heart.

-It is very important to take your aspirin and clopidogrel (also 
known as Plavix) every day.  
-These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.  
-If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents, and you may die from 
a heart attack.  
-Please do not stop taking either medication without taking to 
your heart doctor.  

Your ___ team
 
Followup Instructions:
___